US04791118
1-Cyclopropyl-7-[3-(2-fluoroethyl)aminomethyl-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A suspension of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (200 mg), 3-(2-fluoroethylaminomethyl)pyrrolidine (165 mg) and 1,8-diazabicyclo[5,4,0]-7-undecene (100 mg) in absolute acetonitrile (2 ml) was refluxed for an hour. After cooling, the reaction mixture was concentrated and to the residue was added acetonitrile-ether (1:1, 5 ml). The solution was allowed to stand overnight at 5° C., then the resulting precipitate was collected by filtration and recrystallized from chloroform-methanol-ether to give the title compound (140 mg), mp 134°-138° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 200 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-(2-fluoroethylaminomethyl)pyrrolidine | 165 mg | FCCNCC1CNCC1 | C7H15FN2
reactant | 1,8-diazabicyclo[5,4,0]-7-undecene | 100 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-7-[3-(2-fluoroethyl)aminomethyl-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 140 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)CNCCF)F)=O)C(=O)O | C20H22F3N3O3
